US03941803
In the manner given in Example 33, 2'-chloro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone in ethanol is heated with hydrazine to give 6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 2'-chloro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C25H16ClN3O3
reactant | hydrazine | NN | H4N2
reactant | ethanol | C(C)O | C2H6O
product | 6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=CC=C3)C=CN2 | C17H12ClN3
